US05166347
Preparation of N-cyano-N'-[2-(4-chlorophenyl)ethyl]-2-pyridinecarboximidamide (method i)
Methyl N-cyano-2-pyridinecarboximidate (0.50 g, 3.1 mmol) was dissolved in methanol (10 ml), 4-chlorophenethylamine (0.53 g, 3.4 mmol) was added, and the resulting mixture was stirred at room temperature for 30 minutes. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was crystallized from dichloromethane-diethyl ether to give the title compound (0.43 g, 1.5 mmol, yield: 49%) as colorless needles.

reactant | Methyl N-cyano-2-pyridinecarboximidate | 3.1 mmol, 0.50 g | C(#N)N=C(OC)C1=NC=CC=C1 | C8H7N3O
reactant | 4-chlorophenethylamine | 3.4 mmol, 0.53 g | ClC1=CC=C(CCN)C=C1 | C8H10ClN
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-[2-(4-chlorophenyl)ethyl]-2-pyridinecarboximidamide | 1.5 mmol, 0.43 g, yield: 49% | C(#N)NC(=NCCC1=CC=C(C=C1)Cl)C1=NC=CC=C1 | C15H13ClN4
